US04486598
Diisopropylamine (26.0 g, 0.257 mmol, 3.1 eq) in 130 ml of tetrahydrofuran initially at -50° C. is treated dropwise with n-butyl-lithium (98.8 ml, 1.6M, 0.158 mol, 1.9 eq) over an 8 minute period while allowing the temperature to rise to -25° C. After 5 minutes longer at -20° C., the reaction mixture is treated dropwise with a mixture of hexamethylphosphoramide (17.8 g, 0.099 mol, 1.2 eq) and propionic acid (6.14 g, 0.083 mol, 1.0 eq) over a 7 minute period while the temperature rises to 0° C. Following addition the reaction mixture is warmed to room temperature and maintained there for 35 minutes. The contents are then cooled to 0° C. in an ice bath, treated dropwise over a 12 minute period with 1-bromo-2-butyne (11.0 g, 0.083 mol, 1.0 eq) in 8 ml of tetrahydrofuran. The temperature, which rises to 16° C. during addition, is allowed to warm to room temperature thereafter where it is maintained for 2 hours. The contents are carefully poured into 300 ml of 10% HCl with stirring (exothermic) followed by 500 ml of ether-pentane (1:1). The organic layer is separated and the aqueous phase extracted 2 more times with ether-pentane (1:1) giving 1800 ml of total extract volume. The combined extracts are washed with water 2×60 ml) and the combined organic extracts are dried over anhydrous sodium sulfate, magnesium sulfate and concentrated at reduced pressure to provide 11.1 g (over theory) of 2-methyl-4-hexynoic acid which is converted to the methyl ester by treatment with methyl iodide.

reactant | Diisopropylamine | 0.257 mmol, 26.0 g, 3.1 eq | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl-lithium | 0.158 mol, 1.6M, 98.8 ml, 1.9 eq | C(CCC)[Li]
reactant | hexamethylphosphoramide | 0.099 mol, 17.8 g, 1.2 eq | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | propionic acid | 0.083 mol, 6.14 g, 1.0 eq | C(CC)(=O)O | C3H6O2
reactant | 1-bromo-2-butyne | 0.083 mol, 11.0 g, 1.0 eq | BrCC#CC | C4H5Br
reactant | HCl | 300 ml | Cl | ClH
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 2-methyl-4-hexynoic acid | 11.1 g | CC(C(=O)O)CC#CC | C7H10O2
